US04870076
2-(2-Benzylsulphonylamino-ethyl)-1-methylpyrrol
Prepared from 2-(2-aminoethyl)-1-methylpyrrol and benzylsulphonyl chloride analogously to Example A.

reactant | 2-(2-aminoethyl)-1-methylpyrrol | NCCC=1N(C=CC1)C | C7H12N2
reactant | benzylsulphonyl chloride | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 2-(2-Benzylsulphonylamino-ethyl)-1-methylpyrrol | C(C1=CC=CC=C1)S(=O)(=O)NCCC=1N(C=CC1)C | C14H18N2O2S
